US09416127B2
a) Preparation of (S)-tert-Butyl 2-(4-(2-phenyl-2H-1,2,3-triazole-4-carboxamido)phenyl)morpholine-4-carboxylate
In a 25 mL round-bottomed flask, 2-phenyl-2H-1,2,3-triazole-4-carboxylic acid (CAS 13306-99-5) (59.8 mg, 316 μmol, Eq: 1.1), (S)-tert-butyl 2-(4-aminophenyl)morpholine-4-carboxylate (80 mg, 287 μmol, Eq: 1.00), N-methylmorpholine (87.2 mg, 94.8 μl, 862 μmol, Eq: 3) and HBTU (164 mg, 431 μmol, Eq: 1.5) were combined with DMF (2 ml) to give a yellow solution. The reaction mixture was stirred overnight at 60° C. The mixture was poured into water (10 ml) and extracted twice with EtOAc. The organic layers were washed with NaHCO3, brine, dried over MgSO4, filtered and concentrated in vacuo to give a brown crude mixture. This mixture was diluted with ether, stirred for 15 minutes and the suspension was filtered. The resulting solid was washed several times with ether to afford the desired compound as a light-yellow solid (35 mg, 27.1%).

reactant | 2-phenyl-2H-1,2,3-triazole-4-carboxylic acid | 316 μmol, 59.8 mg | C1(=CC=CC=C1)N1N=CC(=N1)C(=O)O | C9H7N3O2
reactant | (S)-tert-butyl 2-(4-aminophenyl)morpholine-4-carboxylate | 287 μmol, 80 mg | NC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C15H22N2O3
reactant | N-methylmorpholine | 862 μmol, 94.8 μl, 87.2 mg | CN1CCOCC1 | C5H11NO
reactant | HBTU | 431 μmol, 164 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | ether | CCOCC | C4H10O
solvent | water | 10 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 2-(4-(2-phenyl-2H-1,2,3-triazole-4-carboxamido)phenyl)morpholine-4-carboxylate | 35 mg, 27.1% | C1(=CC=CC=C1)N1N=CC(=N1)C(=O)NC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C24H27N5O4
